US08389524B2
(1R)-1-({4-[(1,2,3-Benzothiadiazol-5-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride
A suspension of (1R)-1-({4-[(1,2,3-benzothiadiazol-5-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride (for a preparation see Example 5A(j)) (60 mg, 0.161 mmol) in chloroform (2 ml) and methanol (0.100 ml) at rt under nitrogen was treated with triethylamine (0.067 ml, 0.482 mmol) and stirred at rt for 15 h. The solution was then treated with 1,2,3-benzothiadiazole-5-carbaldehyde (for a synthesis see WO0208224 Example 20(a)) (23.75 mg, 0.145 mmol) and stirred for a further 30 min. The solution was then treated with sodium triacetoxyborohydride (102 mg, 0.482 mmol) and stirred at rt for 45 min, LC-MS after 45 min showed reaction complete. This was then treated with saturated aqueous NaHCO3 (10 ml) and extracted with 20% methanol/DCM (3×25 ml). The combined organic extracts were dried (MgSO4), filtered, evaporated and chromatographed (0-5% methanol/DCM 5% methanol/DCM) to give the free base of the title compound (26 mg, 36%) as a pale yellow solid.

reactant | (1R)-1-({4-[(1,2,3-benzothiadiazol-5-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride | Cl.Cl.S1N=NC2=C1C=CC(=C2)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3C=CC(N2C13)=O)=O
reactant | triethylamine | 0.482 mmol, 0.067 ml | C(C)N(CC)CC | C6H15N
reactant | 1,2,3-benzothiadiazole-5-carbaldehyde | S1N=NC2=C1C=CC(=C2)C=O | C7H4N2OS
reactant | sodium triacetoxyborohydride | 0.482 mmol, 102 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.100 ml | CO | CH4O
product | (1R)-1-({4-[(1,2,3-Benzothiadiazol-5-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride | 26 mg, 36% | Cl.S1N=NC2=C1C=CC(=C2)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3C=CC(N2C13)=O)=O | InChI=1S/C23H24N6O2S.ClH/c30-21-5-2-16-3-6-22(31)29-18(14-28(21)23(16)29)13-27-9-7-17(8-10-27)24-12-15-1-4-20-19(11-15)25-26-32-20;/h1-6,11,17-18,24H,7-10,12-14H2;1H/t18-;/m1./s1
